US07727985B2
To a DMSO solution (4 ml) of 200 mg (0.755 mmol) of 6-chloro-7-fluoro-8-nitro-9H-β-carboline was added 1-methylpiperazine (226 mg, 2.26 mmol) and DIEA (400 mg, 3.09 mmol) via a syringe. The reaction was allowed to stir at RT overnight. Upon addition of water, an orange solid precipitated out. The solid was filtered, washed and dried to give 236 mg (91% yield) of the desired 6-chloro-7-(4-methyl-piperazin-1-yl)-8-nitro-9H-β-carboline.

reactant | DMSO | 4 ml | CS(=O)C | C2H6OS
reactant | 6-chloro-7-fluoro-8-nitro-9H-β-carboline | 0.755 mmol, 200 mg | ClC=1C=C2C=3C=CN=CC3NC2=C(C1F)[N+](=O)[O-] | C11H5ClFN3O2
reactant | 1-methylpiperazine | 2.26 mmol, 226 mg | CN1CCNCC1 | C5H12N2
reactant | DIEA | 3.09 mmol, 400 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | water | O | H2O
product | 6-chloro-7-(4-methyl-piperazin-1-yl)-8-nitro-9H-β-carboline | 236 mg, 91% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1N1CCN(CC1)C)[N+](=O)[O-] | C16H16ClN5O2
